US08877782B2
N-Cyclopropyl-6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 89, 6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (100 mg, 0.26 mmol), instead of 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, was converted, using cylopropylamine instead of morpholine, to the title compound (100 mg, 94%) which was obtained as a white solid. MS: m/e=404.5 [M+H]+.

reactant | 6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.26 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C18H13F3N2O4
reactant | 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=C(C=C1)Cl)=O | C18H15ClN2O4
reactant | cylopropylamine | C1(CC1)N | C3H7N
product | N-Cyclopropyl-6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinamide | 100 mg, 94% | C1(CC1)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C20H16F3N3O3
